* Z:\mnt\design.r\spice\examples\3498.asc
XU1 N005 IN 0 0 IN N006 OUT2 N004 N002 IN N001 N003 LT3498
L1 IN N001 15µ
L2 IN N002 15µ
R1 N003 N005 10
D1 N005 0 NSCW100 N=6
C1 N003 0 1µ
C2 N004 0 .47µ
R2 OUT2 N006 2.21Meg
V1 IN 0 5
Rload OUT2 0 666
C3 OUT2 0 2µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 500u startup
.lib LT3498.sub
.backanno
.end
